US04125622
Analogously to Example 1, by reaction of maleic acid anhydride with 2-hydroxyethanethiol in the presence of piperidine (instead of diisopropylamine) and the usual working up, 2-oxo-1,4-oxathiane-3-acetic acid, m.p. = 96°-98° is obtained.

reactant | maleic acid anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2-hydroxyethanethiol | OCCS | C2H6OS
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | 2-oxo-1,4-oxathiane-3-acetic acid | O=C1OCCSC1CC(=O)O | C6H8O4S
